US04826869
1-Propyl-2-(3'-ureidobenzyl)pyrrole 2 g (7.7 mmol), prepared, for example, as described in Preparation 5D, was suspended in 80 ml of water and 20 ml of a 1.044M solution of hydrochloric acid (20 mmol) in methanol. This suspension was hydrogenated at 45 p.s.i. in the presence of 1.45 g of 5% rodium on activated alumina as catalyst, for 1 hour. The catalyst was then separated by filtration and the filtrate evaporated in vacuo. The aqueous residue was treated with ammonium hydroxide until an alkaline pH was obtained, and the product extracted with ethyl acetate (3×100 ml). The combined extracts were washed with water (2×50 ml), dried over sodium sulfate and evaporated under reduced pressure. The residue was crystallized from ethanol-water, thus obtaining 1.1 g (54%) of 1-propyl-2-(3'-ureidobenzyl)pyrrolidine, the title compound. M.P. 101°-104° C.

reactant | 1-Propyl-2-(3'-ureidobenzyl)pyrrole | 7.7 mmol, 2 g | C(CC)N1C(=CC=C1)CC1=CC(=CC=C1)NC(=O)N | C15H19N3O
reactant | hydrochloric acid | 20 mmol | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | methanol | CO | CH4O
product | 1-propyl-2-(3'-ureidobenzyl)pyrrolidine | 1.1 g, 54% | C(CC)N1C(CCC1)CC1=CC(=CC=C1)NC(=O)N | C15H23N3O
